US08304407B2
To a solution of crude (E)-2-(4-bromo-2-nitrophenyl)-N,N-dimethylethenamine (35.5 g, 131 mmol) in THF (300 mL) and pH 7.2 phosphate buffer (300 mL) was added NaIO4 (56.0 g, 262 mmol). The solids were removed and the filter cake was washed with EtOAc (200 mL). The filtrate was washed with brine (2×100 mL), dried and concentrated. The concentrate was purified via flash chromatography (5% EtOAc/hexanes to 10% EtOAc/hexanes) to provide 4-bromo-2-nitrobenzaldehyde (8.41 g, 28% yield).

reactant | (E)-2-(4-bromo-2-nitrophenyl)-N,N-dimethylethenamine | 131 mmol, 35.5 g | BrC1=CC(=C(C=C1)/C=C/N(C)C)[N+](=O)[O-] | C10H11BrN2O2
reactant | THF | 300 mL | C1CCOC1 | C4H8O
solvent | phosphate | 300 mL, pH 7.2 | P(=O)([O-])([O-])[O-]
product | 4-bromo-2-nitrobenzaldehyde | 8.41 g, 28% yield | BrC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
